US07635684B2
3-[N-Benzyloxycarbonyl-N-(3-bromopropyl)amino]propionamide
To a solution of acrylamide (2 g) in ethanol (30 mL) was added 3-amino-1-propanol (3.23 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure. To the residue were added tetrahydrofuran (30 mL) and N-(benzyloxycarbonyloxy)-succinimide (14 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=40/1-20/1-5/1) to give 3-[N-benzyloxycarbonyl-N-(3-hydroxypropyl)-amino]propionamide (3.51 g). To a solution of the obtained 3-[N-benzyloxycarbonyl-N-(3-hydroxypropyl)amino]propionamide (0.5 g) and carbon tetrabromide (0.65 g) in dichloromethane (5 mL) was added triphenylphosphine (1.03 g) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/4-dichloromethane/methanol=10/1) to give the title compound (0.41 g).

reactant | 3-[N-benzyloxycarbonyl-N-(3-hydroxypropyl)amino]propionamide | 0.5 g | C(C1=CC=CC=C1)OC(=O)N(CCCO)CCC(=O)N | C14H20N2O4
reactant | carbon tetrabromide | 0.65 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-[N-Benzyloxycarbonyl-N-(3-bromopropyl)amino]propionamide | 0.41 g | C(C1=CC=CC=C1)OC(=O)N(CCCBr)CCC(=O)N | C14H19BrN2O3
